US09315521B2
To a solution (2-ethylpyridin-3-yl)methanol (3.0 g, 21.9 mmol) in anhydrous dichloromethane (150 mL) was added tribromophosphane (2.3 mL, 24.2 mmol). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated. The residue was dried in vacuo, affording 3-(bromomethyl)-2-ethylpyridine, which was used without further purification.

reactant | (2-ethylpyridin-3-yl)methanol | 21.9 mmol, 3.0 g | C(C)C1=NC=CC=C1CO | C8H11NO
reactant | tribromophosphane | 24.2 mmol, 2.3 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-(bromomethyl)-2-ethylpyridine | BrCC=1C(=NC=CC1)CC | C8H10BrN
